US08609644B2
To a solution of a 1/1 mixture of 3β-hydroxy-5α,6α-epoxyandrostan-17-one and 3β-hydroxy-5β,6β-epoxyandrostane-17-one (2.10 g, 6.90 mmol) in acetone (38 mL), Jones reagent (8.35 mL) was added dropwise, maintaining the temperature below 40° C. 5 min after completion of the addition, i-PrOH (10 mL) was added and, after further 10 min, the suspension was filtered and the filtrate evaporated to dryness. The residue was treated with H2O (300 mL) and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with H2O (100 mL), 5% aqueous NaHCO3 solution (100 mL), H2O (100 mL), dried over Na2SO4 and evaporated to dryness to give 5α-hydroxyandrostane-3,6,17-trione as a white solid (1.65 g, 75%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 5.00 (s, 1H), 2.85 (m, 2H), 2.45-1.25 (m, 17H), 1.06 (s, 3H), 0.88 (s, 3H).

reactant | 3β-hydroxy-5α,6α-epoxyandrostan-17-one | O[C@@H]1C[C@]23[C@H](C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)O3 | C19H28O3
reactant | 3β-hydroxy-5β,6β-epoxyandrostane-17-one | 6.90 mmol, 2.10 g | O[C@@H]1C[C@@]23[C@@H](C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)O3 | C19H28O3
reactant | i-PrOH | 10 mL | CC(C)O | C3H8O
solvent | acetone | 38 mL | CC(=O)C | C3H6O
solvent | Jones reagent | 8.35 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 5α-hydroxyandrostane-3,6,17-trione | 1.65 g, 75% | O[C@]12C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)C)=O)=O | C19H26O4
